US07071184B2
f. 4-Amino-6-methyl-1-(pyridine-2-sulfonyl)-azepan-3-ol
4-Azido-6-methyl-1-(pyridine-2-sulfonyl)-azepan-3-ol (0.33 g, 1.06 mmol) was dissolved in THF(50 ml) and H2O (0.2 ml). PPh3 (0.42 g, 1.59 mmol) was added to this solution. The reaction mixture was stirred at 45° C. over night. TLC showed no starting material left. THF was evaperated, azeotroped by toluene (2×100 ml). The resulting thick oil was dissolved in MeOH, treated with HCl in ether to adjust pH to acidic. More ether was added and the solution turned cloudy to give the title compound as a white precipitate (0.21 g, 71% yield) MS (M+H+) 286.0; 1H-NMR (400 Hz, CD3OD); d (ppm): 8.72(d, 1H), 8.14–7.99(m, 2H), 7.68(m, 1H), 3.85–3.69(m, 2H), 3.38–3.22(m, 3H), 3.10–3.04(m, 2H), 2.04(m, 1H), 1.82–1.66(m, 2H), 1.02(d, 3H).

reactant | 4-Azido-6-methyl-1-(pyridine-2-sulfonyl)-azepan-3-ol | 1.06 mmol, 0.33 g | N(=[N+]=[N-])C1C(CN(CC(C1)C)S(=O)(=O)C1=NC=CC=C1)O | C12H17N5O3S
reactant | PPh3 | 1.59 mmol, 0.42 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | H2O | 0.2 ml | O | H2O
product | 4-Amino-6-methyl-1-(pyridine-2-sulfonyl)-azepan-3-ol | NC1C(CN(CC(C1)C)S(=O)(=O)C1=NC=CC=C1)O | C12H19N3O3S
